US07405300B2
2-Chloro-1H-indole-3-carboxaldehyde is reacted with 3-(hydroxymethyl)-phenylboronic acid as described in Step 1 of Example 29 to afford 2-chloro-1-(3-hydroxymethylphenyl)-1H-indole-3-carboxaldehyde (17% yield) as a pink solid. ESI/MS 286 (M+H); RT 2.85 min.

reactant | 2-Chloro-1H-indole-3-carboxaldehyde | ClC=1NC2=CC=CC=C2C1C=O | C9H6ClNO
reactant | 3-(hydroxymethyl)-phenylboronic acid | OCC=1C=C(C=CC1)B(O)O | C7H9BO3
product | 2-chloro-1-(3-hydroxymethylphenyl)-1H-indole-3-carboxaldehyde | 17% yield | ClC=1N(C2=CC=CC=C2C1C=O)C1=CC(=CC=C1)CO | C16H12ClNO2
